US07211672B2
(±)-Cis-N-(4—chloro-phenyl)-N-[1-(4-cyclopentyloxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide was prepared from (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide. To a solution of (±)-cis-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide in dimethylformamide was added cyclopentyl bromide, potassium carbonate (3.0 equiv), potassium iodide (catalytic) and heated to 65° C. overnight. Reaction mixture was filtered for removal of inorganic salts and concentrated. Crude mixture was purified by flash chromatography on silica gel using gradient elution ethyl acetate-methanol (2–20% methanol)

reactant | (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide | ClC1=CC=C(C=C1)N(C(CC)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C26H25ClN2O3
reactant | (±)-cis-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 3.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (±)-Cis-N-(4—chloro-phenyl)-N-[1-(4-cyclopentyloxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC1CCCC1)=O)C | C30H31ClN2O3
